US05215994
A mixture of 2-butyl-3-[4-(3,4-dichloro-2-cyano-1-pyrrolyl)benzyl]-7-methyl-3H-imidazo[4,5-b]pyridine (490 mg) and trimethyltin azide (690 mg) in xylene (5 ml) was stirred at 120° C. for 22 hours. After cooled to ambient temperature, the mixture was treated with aqueous 1N sodium hydroxide (10 ml) for 4 hours. The suspension was filtered. The filtrate was washed with diisopropyl ether, adjusted to pH 4 with aqueous 1N-hydrochloric acid, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (elution by methanol/dichloromethane=1/8) to give 2-butyl-3-[4-[3,4-dichloro-2-(1H-tetrazol-5-yl)-1-pyrrolyl]benzyl]-7-methyl-3H-imidazo[4,5-b]pyridine (516 mg) as an amorphous solid.

reactant | 2-butyl-3-[4-(3,4-dichloro-2-cyano-1-pyrrolyl)benzyl]-7-methyl-3H-imidazo[4,5-b]pyridine | 490 mg | C(CCC)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)N1C(=C(C(=C1)Cl)Cl)C#N | C23H21Cl2N5
reactant | trimethyltin azide | 690 mg | C[Sn](C)(C)N=[N+]=[N-]
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-butyl-3-[4-[3,4-dichloro-2-(1H-tetrazol-5-yl)-1-pyrrolyl]benzyl]-7-methyl-3H-imidazo[4,5-b]pyridine | 516 mg | C(CCC)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)N1C(=C(C(=C1)Cl)Cl)C1=NN=NN1 | C23H22Cl2N8
